US06713471B1
4-Bromo-1-[(3-chloropropyl)sulfanyl]-2-nitrobenzene (1.97 g, 7.1 mmol) was dissolved in MeOH (25 mL). The reaction flask was evacuated with nitrogen, and Pd(OH)2 on carbon (400 mg) was added. The reaction flask was evacuated with nitrogen several time before being subjected to an atmosphere of H2 (50 psi). The flask was shaken on a parr apparatus for 72 hrs. The reaction was filtered over a bed of celite and the residue was washed with MeOH (5 mL). The supernant was concentrated, and the crude, balck residue was purified by column chromatography (50-20% hexanes-CH2Cl2), to afford 5-bromo-2-[(3-chloropropyl)sulfanyl]aniline (1.28 g, 73%) as a clear oil. 1H NMR (CDCl3, 300 Mhz) δ7.20 (d, 1H, 8.0 Hz), 6.88 (d, 1H, 2.0 Hz), 6.79 (dd, 1H, 2.0 Hz, 8.0 Hz), 4.41 (s, 2H), 3.64 (t, 2H, 6.6 Hz), 2.86 (t, 2H, 7.0 Hz), 1.94-1.99 (m, 2H) ppm.

reactant | 4-Bromo-1-[(3-chloropropyl)sulfanyl]-2-nitrobenzene | 7.1 mmol, 1.97 g | BrC1=CC(=C(C=C1)SCCCCl)[N+](=O)[O-] | C9H9BrClNO2S
solvent | MeOH | 25 mL | CO | CH4O
product | 5-bromo-2-[(3-chloropropyl)sulfanyl]aniline | 1.28 g, 73% | BrC=1C=CC(=C(N)C1)SCCCCl | C9H11BrClNS
